US07385092B2
1,2-Dodecanediol
336 g (2.00 mol) of 1-dodecene were reacted with 236 g of formic acid and 185 g of a 50% strength aqueous H2O2 solution in accordance with Example 4. 412 g of ethanol were employed for the Marlon AS3 acid-catalyzed transesterification, and the main fraction obtained after the workup by distillation was 99.5% pure, virtually odorless 1,2-dodecanediol.

reactant | 1-dodecene | 2.00 mol, 336 g | C=CCCCCCCCCCC | C12H24
reactant | formic acid | 236 g | C(=O)O | CH2O2
reactant | H2O2 | OO | H2O2
solvent | ethanol | 412 g | C(C)O | C2H6O
product | 1,2-Dodecanediol | C(C(CCCCCCCCCC)O)O | C12H26O2
